US05141946
2-[(n-butoxycarbonylmethyl)thio]thiazolo[5,4-b]pyridine
Twenty-four (24) g of 2-mercaptothiazolo[5,4-b]pyridine was dissolved in 300 ml of N,N-dimethylformamide, and 43.3 g of potassium carbonate and 23.65 g of chloroacetic acid n-butyl ester were added to the solution, followed by one-hour stirring at room temperature. Seven hundred (700) ml of ethyl acetate was added to the solution, which was then washed with water three times, dehydrated over magnesium sulfate, dried and distilled to remove the solvent to obtain the title compound (39.9 g, 99%).

reactant | 2-mercaptothiazolo[5,4-b]pyridine | SC=1SC2=NC=CC=C2N1 | C6H4N2S2
reactant | potassium carbonate | 43.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | chloroacetic acid n-butyl ester | 23.65 g | C(CCC)OC(CCl)=O | C6H11ClO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 2-[(n-butoxycarbonylmethyl)thio]thiazolo[5,4-b]pyridine | 39.9 g, 99% | C(CCC)OC(=O)CSC=1SC2=NC=CC=C2N1 | C12H14N2O2S2
